US04109006
3-Butoxycarbonyl-2-n-propyl-5,6-dihydro-1,4-dithiin-1,1,4,4-tetroxide
By following substantially the procedure of Example 1, Step C, 3-ethoxycarbonyl-2-n-propyl-5,6-dihydro-1,4-dithiin (9.0 g.) yields 8.15 g. of 3-ethoxycarbonyl-2-n-propyl-5,6-dihydro-1,4-dithiin-1,1,4,4-tetroxide 73.5°-74.5° C.

reactant | 3-ethoxycarbonyl-2-n-propyl-5,6-dihydro-1,4-dithiin | 9.0 g | C(C)OC(=O)C1=C(SCCS1)CCC | C10H16O2S2
reactant | 3-ethoxycarbonyl-2-n-propyl-5,6-dihydro-1,4-dithiin-1,1,4,4-tetroxide | C(C)OC(=O)C1=C(S(CCS1(=O)=O)(=O)=O)CCC | C10H16O6S2
product | 3-Butoxycarbonyl-2-n-propyl-5,6-dihydro-1,4-dithiin-1,1,4,4-tetroxide | C(CCC)OC(=O)C1=C(S(CCS1(=O)=O)(=O)=O)CCC | C12H20O6S2
